US05576334
Liquid isobutylene (45 ml) was slowly added to a mixture of (2S)-2-amino-3-(4-nitrophenyl)propionic acid (7.2 g), 1,4-dioxane (45 ml) and concentrated sulphuric acid (4.5 ml) in a pressure bottle. The vessel was sealed and the reaction mixture was agitated at ambient temperature for 24 hours and then carefully opened. The excess of isobutylene was allowed to evaporate. The reaction mixture was poured into an ice-cold mixture of ethyl acetate (250 ml) and 0.25M NaOH(aq) (300-400 ml). The pH of the two-phase system was adjusted to between 9 and 10, and the ethyl acetate layer was separated. The aqueous layer was re-extracted with ethyl acetate (200 ml) and the combined organic extracts were washed with water, dried (MgSO4) and evaporated to give t-butyl (2S)-2-amino-3-(4-nitrophenyl)propionate (6.9 g) as a brown oil which was used without further purification.

reactant | isobutylene | 45 ml | CC(C)=C | C4H8
reactant | (2S)-2-amino-3-(4-nitrophenyl)propionic acid | 7.2 g | N[C@H](C(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | sulphuric acid | 4.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | 1,4-dioxane | 45 ml | O1CCOCC1 | C4H8O2
product | t-butyl (2S)-2-amino-3-(4-nitrophenyl)propionate | 6.9 g | N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O4
